US05096915
Crude ethyl 1-(dimethylsulphamoyl)imidazole-4-carboxylate, from method 1, was reduced with diisobutylaluminium hydride to give 4-hydroxymethyl-1-(dimethylsulphamoyl)-imidazole. A mixture of this product (1.09 g) in methylene chloride (10 ml), dihydropyran (1.0 ml), pyridinium tosylate (1.26 g) and a few crystals of tosic acid was stirred at room temperature for 60 hours. Solvent was removed and the residue worked up to give 1-(dimethylsulphamoyl)-4-(tetrahydropyran-2-yloxy)imidazole, as an oil. This was cyanated with tosyl cyanide and butyllithium as described above to give 2-cyano-1-(dimethylsulphamoyl)-4-(tetrahydropyran-2-yloxy)imidazole, as an oil. A solution of this (150 mg) in ethanol (3 ml) was heated under reflux for 5 minutes after addition of a few milligrams of pyridinium tosylate. Solvent was removed and the residue purified by silica gel chromatography to give the starting material.

reactant | ethyl 1-(dimethylsulphamoyl)imidazole-4-carboxylate | CN(S(=O)(=O)N1C=NC(=C1)C(=O)OCC)C | C8H13N3O4S
reactant | diisobutylaluminium hydride | [H-].C(C(C)C)[Al+]CC(C)C
product | 4-hydroxymethyl-1-(dimethylsulphamoyl)-imidazole | OCC=1N=CN(C1)S(N(C)C)(=O)=O | C6H11N3O3S
